US06451821B1
The process is performed as in Example 2, starting with 7.15 g of ethyl (2S)-2-(acetylamino)-3-(3-nitrophenyl)propanoate and 1.46 g of sodium borohydride in 70 cm3 of ethanol. After an identical work-up, 5.8 g of N-[(1S)-2-hydroxy-1-(3-nitrobenzyl)-ethyl]acetamide are obtained in the form of a white solid melting at 131° C.

reactant | ethyl (2S)-2-(acetylamino)-3-(3-nitrophenyl)propanoate | 7.15 g | C(C)(=O)N[C@H](C(=O)OCC)CC1=CC(=CC=C1)[N+](=O)[O-] | C13H16N2O5
reactant | sodium borohydride | 1.46 g | [BH4-].[Na+]
solvent | ethanol | 70 cm3 | C(C)O | C2H6O
product | N-[(1S)-2-hydroxy-1-(3-nitrobenzyl)-ethyl]acetamide | 5.8 g | OC[C@H](CC1=CC(=CC=C1)[N+](=O)[O-])NC(C)=O | C11H14N2O4
